US05302720
Reaction of dry 4'-acetyl-2-aminobiphenyl hydrochloride (2.6 g) with N,N-dimethylcyanamide (2.5 ml) in m-cresol (7 ml) at 80° C. for 5 hours gave N-(4'-acetyl-2-biphenylyl)-N',N'-dimethylguanidine (2.3 g) as a colourless solid (m.p. 174°-175° C.) which was recrystallised from a mixture of acetone and hexane.

reactant | 4'-acetyl-2-aminobiphenyl hydrochloride | 2.6 g | Cl.C(C)(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)N
reactant | N,N-dimethylcyanamide | 2.5 ml | CN(C#N)C | C3H6N2
solvent | m-cresol | 7 ml | C1=C(C=CC=C1O)C | C7H8O
product | N-(4'-acetyl-2-biphenylyl)-N',N'-dimethylguanidine | 2.3 g | C(C)(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)NC(=N)N(C)C | C17H19N3O
